US07807659B2
Method H: (S)-1-(Isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid methyl ester
A stirred solution of (S)-1-Piperidine-carboxylic acid methyl ester hydrochloride (1.00 g, 5.57 mmol), in DMF (20 ml) at room temperature was treated with DIPEA (2.12 ml, 12.25 mmol). The resulting mixture was allowed to stir for 30 min before being treated with 1-isoquinolinecarboxylic acid (964 mg, 5.57 mmol) and TBTU (1.79 g, 5.57 mmol). The mixture stirred at room temperature for 4 hr, diluted with ethyl acetate, washed with saturated aq. NaHCO3, saturated aq. NaCl, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (67% ethyl acetate in hexane) to afford the sub-title compound as a colourless gum (1.05 g, 63%): 1H NMR (400 MHz, CDCl3) δ 1.00-2.51 (6H, m), 3.05-3.38 (2H, m), 3.60-3.95 (3H, m), 4.35-4.95 (1H, m), 5.70-5.80 (1H, m), 7.55-7.95 (3H, m), 8.13-8.29 (1H, m), 8.48-8.61 (1H, m).

reactant | DIPEA | 12.25 mmol, 2.12 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-isoquinolinecarboxylic acid | 5.57 mmol, 964 mg | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | TBTU | 5.57 mmol, 1.79 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (S)-1-(Isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid methyl ester | 1.05 g, 63% | COC(=O)[C@H]1N(CCCC1)C(=O)C1=NC=CC2=CC=CC=C12 | C17H18N2O3
